US07645789B2
A suspension of 2-tert-butyl-6-fluoro-5-nitro-1H-indole (1.5 g, 6.36 mmol) and Ni (0.5 g) in MeOH (20 mL) was stirred under H2 atmosphere (1 atm) at the room temperature for 3 h. The catalyst was filtered off and the filtrate was concentrated under reduced pressure to dryness. The residue was recrystallized in ether to give 2-tert-butyl-6-fluoro-1H-indol-5-amine (520 mg, 38%). 1H-NMR (300 MHz, DMSO-d6) δ 10.46 (brs, 1H), 6.90 (d, J=8.7 Hz, 1H), 6.75 (d, J=9.0 Hz, 1H), 5.86 (s, 1H), 4.37 (brs, 2H), 1.29 (s, 9H); MS (ESI) m/e 206.6.

reactant | 2-tert-butyl-6-fluoro-5-nitro-1H-indole | 6.36 mmol, 1.5 g | C(C)(C)(C)C=1NC2=CC(=C(C=C2C1)[N+](=O)[O-])F | C12H13FN2O2
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Ni | 0.5 g | [Ni] | Ni
product | 2-tert-butyl-6-fluoro-1H-indol-5-amine | 520 mg, 38% | C(C)(C)(C)C=1NC2=CC(=C(C=C2C1)N)F | C12H15FN2
